US03959322
Add mercuric sulphate (0.45 g) to a swirled solution of 1-diethylamino-6-m-methoxyphenylhex-2-yne (8.5 g) in concentrated sulphuric acid (2.5 cc) and water (25 cc). Keep the solution under nitrogen at 75°C for 1 hour, then cool, make basic with 10% aqueous sodium hydroxide, and filter through glass wool to remove mercuric oxide. Extract product with ether and wash and dry the ethereal solution. Remove the solvent to obtain the crude ketoamine 1-diethylamino-6-m-methoxyphenylhexan-3-one, infrared absorption peak at 1710 μ. Distil under reduced pressure with partial elimination of diethylamine, to obtain a mixture of the ketoamine 1-diethylamino-6-m-methoxyphenylhexan-3-one and the vinyl ketone 6-m-methoxyphenylhex-1-en-3-one (7.1 g, ca. 76%), b.p. 140°-145°C/0.1 mm; infrared absorption peaks at 5.85 and 5.95 μ, the ketoamine predominating.

reactant | 1-diethylamino-6-m-methoxyphenylhex-2-yne | 8.5 g | C(C)N(CC#CCCCC1=CC(=CC=C1)OC)CC | C17H25NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 2.5 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 cc | O | H2O
product | ketoamine 1-diethylamino-6-m-methoxyphenylhexan-3-one | C(C)N(CCC(CCCC1=CC(=CC=C1)OC)=O)CC.O=N | InChI=1S/C17H27NO2.HNO/c1-4-18(5-2)13-12-16(19)10-6-8-15-9-7-11-17(14-15)20-3;1-2/h7,9,11,14H,4-6,8,10,12-13H2,1-3H3;1H
